US06582351B1
To a solution of 2-(1,1-dimethyl-2-hydroxyethylamino)-3-nitro-5-(trifluoromethyl)pyridine (1.2 g) in pyridine (12 mL) was added acetic anhydride (0.811 mL), and the mixture was stirred at room temperature under nitrogen atmosphere for 4 hours. The resulting mixture was concentrated in vacuo, and the residue was partitioned between ethyl acetate and water. The separated organic layer was washed successively with 1 N-hydrochloric acid, water, an aqueous saturated sodium hydrogencarbonate solution and brine. The organic layer was dried over magnesium sulfate and evaporated in vacuo to give 2-(2-acetoxy-1,1-dimethylethylamino)-3-nitro-5-(trifluoromethyl)pyridine (1.39 g) as a yellow oil.

reactant | 2-(1,1-dimethyl-2-hydroxyethylamino)-3-nitro-5-(trifluoromethyl)pyridine | 1.2 g | CC(CO)(C)NC1=NC=C(C=C1[N+](=O)[O-])C(F)(F)F | C10H12F3N3O3
reactant | acetic anhydride | 0.811 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 12 mL | N1=CC=CC=C1 | C5H5N
product | 2-(2-acetoxy-1,1-dimethylethylamino)-3-nitro-5-(trifluoromethyl)pyridine | 1.39 g | C(C)(=O)OCC(C)(C)NC1=NC=C(C=C1[N+](=O)[O-])C(F)(F)F | C12H14F3N3O4
